Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-6.82582656365
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8].[C:9]([H:10])[H:11],6.18850881397
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.28108005404
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.27926218797
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-8.74719882548
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1],2.07169318197
[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3]([O:4][H:5])[O:6][H:7],1.9564072045
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],2.72095877003
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:7][O:8][H:9].[H:6],2.64007050494
[C:3]=[O:4].[O:1]([C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[H:5]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.8892087116
[C:1]=[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3][O:4][C:5]([H:6])([H:7])[H:8],1.83195938431
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.31321386847
[H:1][O:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.33649281551
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13],-3.78141781117
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3],4.09244398373
[C:2]([C:3]=[O:4])([H:6])([H:7])[H:8].[O:1]=[C:5]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[H:8],-0.4944447912399999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])([H:8])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],1.28944590175
[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.36152964528
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[H:8],1.0933177403399998
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:4],2.1633079218
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],1.03496452529
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],3.75657772084
[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][O:7][H:8]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][H:8],-3.51418888409
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6],1.92805417207
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6],1.2098319401200002
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:6].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])([H:10])[H:11],3.62497476656
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],3.1632257587700003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6],2.953733894
[C:5]([H:6])[H:7].[H:1][C:2][O:3]/[C:4]=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11],-6.67282695794
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],2.66191020945
